US04487929
(b) 0.43 g of sodium was dissolved in 20 ml of ethanol. A solution of 2.27 g of tert.butyl hexahydro-1,3-dioxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate in 20 ml of ethanol was added and the mixture was heated under reflux for 2 hours. 5 g of ethyl 3-bromopropionate were added and the mixture was heated under reflux for an additional 2 hours. The solvent was removed and the residue was partitioned between dichloromethane and 2N hydrochloric acid. The organic layer was separated and evaporated. The residue was chromatographed on silica gel to give 0.37 g (9%) of tert.butyl 2,2-bis(2-ethoxycarbonylethyl)-hexahydro-1,3-dioxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate in the form of an oil.

reactant | sodium | 0.43 g | [Na] | Na
reactant | tert.butyl hexahydro-1,3-dioxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate | 2.27 g | O=C1CC(N2N1CCCC2C(=O)OC(C)(C)C)=O | C12H18N2O4
reactant | ethyl 3-bromopropionate | 5 g | BrCCC(=O)OCC | C5H9BrO2
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | tert.butyl 2,2-bis(2-ethoxycarbonylethyl)-hexahydro-1,3-dioxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate | 0.37 g, 9% | C(C)OC(=O)CCC1(C(N2N(CCCC2C(=O)OC(C)(C)C)C1=O)=O)CCC(=O)OCC | C22H34N2O8
